US05668289
Step D: 3-Benzylsulfonylamino-6-trifluoromethyl-1-allyl-2-pyridinone
Benzylsulfonyl chloride (103 mg, 0.542 mmol) was added to a stirred solution of 3-amino-6-trifluoromethyl-1-allyl-2-pyridinone (106.5 mg, 0.488 mmol) in pyridine (1 ml) at 0° C. After 1 h the reaction was evaporated in vacuo and the residue was partitioned between methylene chloride and 10% potassium hydrogen surfate solution, dried (Na2SO4), and evaporated in vacuo to give the title compound (175.8 mg): 1H NMR (CDCl3) selected signals at δ 4.42 (s, 2H), 4.74 (d, J=5.5 Hz, 2H), 5.16-5.31 (m, 2H), 5.86-5.96 (m, 1H), 6.55 (d, J=7.7 Hz, 1H), 7.11 (d, J=7.9 Hz, 1H), 7.27-7.33 (m, 5H), 7.70 (br s, 1H, NH).

reactant | Benzylsulfonyl chloride | 0.542 mmol, 103 mg | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 3-amino-6-trifluoromethyl-1-allyl-2-pyridinone | 0.488 mmol, 106.5 mg | NC=1C(N(C(=CC1)C(F)(F)F)CC=C)=O | C9H9F3N2O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 3-Benzylsulfonylamino-6-trifluoromethyl-1-allyl-2-pyridinone | 175.8 mg | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C(F)(F)F)CC=C)=O | C16H15F3N2O3S
